US09371320B2
A) tert-butyl 2-(2,2-dimethylcyclopentylidene)hydrazinecarboxylate
A solution of tert-butyl hydrazinecarboxylate (4.1 g) and 2,2-dimethylcyclopentanone (3.5 g) in methanol (50 mL) was stirred at 70° C. for 4 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with diethyl ether to give the title compound (5.4 g). 1H NMR (400 MHz, CDCl3) δ 1.17 (6H, s), 1.50 (9H, s), 1.61-1.64 (2H, t, J=6.8 Hz), 1.80-1.87 (2H, m), 2.24-2.27 (2H, t, J=7.2 Hz), 7.12 (1H, brs).

reactant | tert-butyl hydrazinecarboxylate | 4.1 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | 2,2-dimethylcyclopentanone | 3.5 g | CC1(C(CCC1)=O)C | C7H12O
solvent | methanol | 50 mL | CO | CH4O
product | tert-butyl 2-(2,2-dimethylcyclopentylidene)hydrazinecarboxylate | 5.4 g | CC1(C(CCC1)=NNC(=O)OC(C)(C)C)C | C12H22N2O2
